US06211223B1
(a) 2-(1 ,3-Benzodioxol-5-yl)-2-(6-methoxycarbonyl-1-methyl-1H-indol-3-yl)acetic acid
Trifluoroacetic acid (1.92 kg) was added portionwise to a stirred suspension of methyl 1-methyl-1H-indole-6-carboxylate (prepared by the same method as 1-methylindole-6-tert-butyl ester in Example 28, International Patent Application WO 97/43260, but using methanol in place of 6-tert-butanol; 1.63 kg) and 2-(1,3-benzodioxol-5-yl)-2-hydroxyacetic acid (1.67 kg) in acetonitrile (16.3 liters) at room temperature under a nitrogen atmosphere. The suspension was heated to reflux for 24 h and allowed to cool to room temperature. Filtration of the precipitated product gave the subtitle compound as a white crystalline solid (2.54 kg, 80.4%).

reactant | Trifluoroacetic acid | 1.92 kg | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 1-methyl-1H-indole-6-carboxylate | CN1C=CC2=CC=C(C=C12)C(=O)OC | C11H11NO2
reactant | methanol | CO | CH4O
reactant | 2-(1,3-benzodioxol-5-yl)-2-hydroxyacetic acid | 1.67 kg | O1COC2=C1C=CC(=C2)C(C(=O)O)O | C9H8O5
solvent | acetonitrile | 16.3 liters | C(C)#N | C2H3N
product | 2-(1 ,3-Benzodioxol-5-yl)-2-(6-methoxycarbonyl-1-methyl-1H-indol-3-yl)acetic acid | 2.54 kg, 80.4% | O1COC2=C1C=CC(=C2)C(C(=O)O)C2=CN(C1=CC(=CC=C21)C(=O)OC)C | C20H17NO6
